US07425639B2
Stage 3 Preparation of 2-{3-[(2-{[(2R)-2-(3-chlorophenyl)-2-hydroxyethyl]-amino}ethyl)amino]phenyl}-3-furoic acid
Ammonium hydroxide (28%, 13 ml) was added over 10 min. to a mixture of ethyl 2-[3-(2-methyl-4,5-dihydro-1H-imidazol-1-yl)phenyl]-3-furoate (13.0 g), deionized water (104 ml), and toluene (104 ml). After 30 min stirring, the organic layer was collected, washed with deionized water (26 ml), and concentrated to ca. 30 ml to remove traces of water azetropically. (R)-3-Chlorostyrene oxide (5.17 g) was added, and the resultant was heated under nitrogen at 110° C. for at least 14 h. The mixture was cooled to ca. 50° C. 1M Sodium hydroxide aqueous solution (77.8 ml) and methanol (39 ml) were added, and the apparatus was configured for distillation. After ca. 1 h, the homogeneous solution obtained was heated at reflux (ca. 4 h) until the hydrolysis was complete (HPLC acetate <2% @ 220 nm, a/a). The mixture was cooled to <50° C. Methanol (26 ml) and 1M hydrochloric acid (78 ml) were heated to ca. 50° C. The reaction mixture from above was added over 20 min, and the resultant slurry was cooled to <20° C. and aged for a further 30 min. The product was collected by filtration, washed with deionized water (2×26 ml), and dried in vacuo at 50° C. to yield 12.7 g (95%) of off-white solid.

reactant | Ammonium hydroxide | 13 ml | [OH-].[NH4+]
reactant | ethyl 2-[3-(2-methyl-4,5-dihydro-1H-imidazol-1-yl)phenyl]-3-furoate | 13.0 g | CC=1N(CCN1)C=1C=C(C=CC1)C=1OC=CC1C(=O)OCC | C17H18N2O3
reactant | acetate | C(C)(=O)[O-]
reactant | hydrochloric acid | 1M, 78 ml | Cl | ClH
solvent | Methanol | 26 ml | CO | CH4O
solvent | toluene | 104 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | 104 ml | O | H2O
product | 2-{3-[(2-{[(2R)-2-(3-chlorophenyl)-2-hydroxyethyl]-amino}ethyl)amino]phenyl}-3-furoic acid | 12.7 g, 95% | ClC=1C=C(C=CC1)[C@H](CNCCNC=1C=C(C=CC1)C=1OC=CC1C(=O)O)O | C21H21ClN2O4
